US08664401B2
[1-(4-Bromo-phenyl)piperidin-4-yl]-methanol (380 mg, 1.41 mmol), was dissolved in 1,4-dioxane (10 mL, degassed with nitrogen). Bis(pinacolato)diborane (428 mg, 1.69 mmol), potassium acetate (414 mg, 4.22 mmol) and palladium dichloride dppf (115 mg, 0.141 mmol) were added at ambient temperature. The resulting mixture was stirred at 90° C. overnight. A further portion of bis(pinacolato)diborane (358 mg, 1.41 mmol) was added and the mixture was stirred at 90° C. overnight. The mixture was cooled to ambient temperature, filtered thought a pad of celite, rinsed with ethyl acetate and the filtrate was concentrated to a crude residue. The residue was absorbed onto silica gel and purified via flash column chromatography (gradient: 100% heptanes to 2:8 ethyl acetate/heptanes to 1:1 ethyl acetate/heptanes). The fractions containing desired product were combined and concentrated to afford {1-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-piperidin-4-yl}-methanol (399 mg)

reactant | [1-(4-Bromo-phenyl)piperidin-4-yl]-methanol | 1.41 mmol, 380 mg | BrC1=CC=C(C=C1)N1CCC(CC1)CO | C12H16BrNO
reactant | Bis(pinacolato)diborane | 1.69 mmol, 428 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 4.22 mmol, 414 mg | C(C)(=O)[O-].[K+]
reactant | bis(pinacolato)diborane | 1.41 mmol, 358 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | {1-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-piperidin-4-yl}-methanol | 399 mg | CC1(OB(OC1(C)C)C1=CC=C(C=C1)N1CCC(CC1)CO)C | C18H28BNO3
